US05006515
Diethyl 3-(4-chlorophenyl)-2-isoxazolin-5-ylphosphonate
The compound is prepared in analogy to Example 1 from 23.34 g (0.15 mol) of 4-chlorobenzaldoxime, 22 g of N-chlorosuccinimide, 27.1 g of diethyl vinylphosphonate and 22.9 ml of triethylamine, resulting in 49 g of oily product.

reactant | 4-chlorobenzaldoxime | 0.15 mol, 23.34 g | ClC1=CC=C(C=NO)C=C1 | C7H6ClNO
reactant | N-chlorosuccinimide | 22 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | diethyl vinylphosphonate | 27.1 g | C(=C)P(OCC)(OCC)=O | C6H13O3P
solvent | triethylamine | 22.9 ml | C(C)N(CC)CC | C6H15N
product | Diethyl 3-(4-chlorophenyl)-2-isoxazolin-5-ylphosphonate | 49 g | ClC1=CC=C(C=C1)C1=NOC(C1)P(OCC)(OCC)=O | C13H17ClNO4P
